*
*|DSPF 1.5
*
*|DATE "Wed May  8 11:17:48 2013"
*|VENDOR "Cadence Design Systems"
*|PROGRAM "Cadence Extraction QRC"
*|VERSION "12.1 Linux 64 bit - (Fri Mar 15 17:53:47 PDT 2013)"
*|DESIGN "DFFRHQX2"
*|DIVIDER /
*|DELIMITER :
*|DeviceFingerDelim "@"
*|BUSBIT []
** caps2d version: 10
*
.GLOBAL  VDD VSS
*
.SUBCKT  DFFRHQX2 Q CK D RN
*
*Net Section
*
*|GROUND_NET VSS
*
*|NET Q 1.42013e-16
*|P (Q X 0 0.3000 0.6650)
*|I (Mmn55@1:d Mmn55@1 d X 0 0.3100 0.5200)
*|I (Mmp55@1:d Mmp55@1 d X 0 0.3100 1.1100)
C1 Mmp55@1:d VSS 9.61281e-17
C2 Mmn55@1:d VSS 1.91624e-17
C3 Q VSS 2.67224e-17
Rk1 Mmn55@1:d Q 75.045151 $W=0.1
Rk2 Mmp55@1:d Q 20.934566 $W=0.1
*
*|NET CK 2.31653e-16
*|P (CK X 0 0.7000 1.0450)
*|I (Mmn20:g Mmn20 g X 0 0.6975 0.4625)
*|I (Mmp20:g Mmp20 g X 0 0.6225 1.1975)
*|S (CK:2 0.6600 0.7700)
C4 Mmp20:g VSS 4.18117e-17
C5 Mmn20:g VSS 3.11582e-17
C6 CK:2 VSS 9.82138e-17
C7 CK VSS 6.04692e-17
Rl3 Mmn20:g CK:2 78.846161 $W=0.039
Rl4 CK:2 Mmp20:g 110.989006 $W=0.039
Rk5 CK:2 CK 45.094528 $W=0.182
*
*|NET D 3.14368e-16
*|P (D X 0 4.1000 0.6650)
*|I (Mmn25:g Mmn25 g X 0 3.8475 0.4925)
*|I (Mmp25:g Mmp25 g X 0 4.1675 1.2700)
*|S (D:2 4.1300 0.7600)
C8 Mmp25:g VSS 9.61505e-17
C9 Mmn25:g VSS 5.73365e-17
C10 D:2 VSS 8.73352e-17
C11 D VSS 7.35457e-17
Rl6 D:2 Mmn25:g 135.154800 $W=0.039
Rl7 Mmp25:g D:2 122.309753 $W=0.039
Rk8 D:2 D 45.068153 $W=0.1
*
*|NET RN 5.30149e-16
*|P (RN X 0 1.7000 0.8550)
*|I (Mmn45:g Mmn45 g X 0 1.4825 0.4075)
*|I (Mmn35:g Mmn35 g X 0 2.9775 0.4925)
*|I (Mmp45:g Mmp45 g X 0 1.5075 1.3100)
*|I (Mmp35:g Mmp35 g X 0 2.8525 1.1400)
*|S (RN:4 1.5450 1.0550)
C12 Mmp35:g VSS 1.24049e-16
C13 Mmp45:g VSS 8.35381e-17
C14 Mmn35:g VSS 7.40283e-17
C15 Mmn45:g VSS 9.57959e-17
C16 RN:4 VSS 1.03659e-16
C17 RN VSS 4.90791e-17
Rl9 RN:4 Mmn45:g 198.905365 $W=0.039
Rl10 Mmp45:g RN:4 24.232828 $W=0.039
Rl11 Mmn35:g Mmp35:g 180.334885 $W=0.039
Rl12 Mmp35:g Mmp45:g 639.950256 $W=0.039
Rk13 RN:4 RN 45.184456 $W=0.1
*
*|NET qbint 8.31616e-16
*|I (Mmn55@1:g Mmn55@1 g X 0 0.2075 0.5200)
*|I (Mmn46:d Mmn46 d X 0 1.2275 0.4075)
*|I (Mmn50:g Mmn50 g X 0 1.6875 0.4075)
*|I (Mmp46:d Mmp46 d X 0 1.3800 1.3100)
*|I (Mmp50:g Mmp50 g X 0 1.8375 1.1400)
*|S (qbint:6 0.4700 0.7600)
*|S (qbint:9 1.6450 0.6850)
*|S (qbint:11 1.3550 0.7700)
*|S (qbint:13 1.1850 0.3650)
C18 Mmp50:g VSS 7.83365e-17
C19 Mmp46:d VSS 6.86504e-17
C20 Mmn50:g VSS 3.95474e-17
C21 Mmn46:d VSS 1.45136e-16
C22 Mmn55@1:g VSS 1.38504e-16
C23 qbint:11 VSS 8.89612e-17
C24 qbint:6 VSS 1.60015e-16
C25 qbint:9 VSS 1.12466e-16
Rl14 Mmn55@1:g qbint:6 49.369297 $W=0.114
Rl15 qbint:9 Mmn50:g 51.098011 $W=0.039
Rl16 Mmp50:g qbint:9 139.125198 $W=0.039
Rk17 qbint:11 qbint:9 45.271397 $W=0.08
Rk18 qbint:13 qbint:6 0.901585 $W=0.08
Rk19 qbint:13 qbint:11 0.512197 $W=0.08
Rk20 qbint:13 Mmn46:d 75.000000 $W=0.08
Rk21 qbint:11 Mmp46:d 62.292511 $W=0.08
*
*|NET CKb 1.47892e-15
*|I (Mmn20:d Mmn20 d X 0 0.8725 0.4625)
*|I (Mmn51:g Mmn51 g X 0 1.9025 0.4075)
*|I (Mmn26:g Mmn26 g X 0 3.7025 0.4925)
*|I (Mmn21:g Mmn21 g X 0 4.3625 0.5875)
*|I (Mmp20:d Mmp20 d X 0 0.7150 1.1975)
*|I (Mmp40:g Mmp40 g X 0 2.2825 1.1400)
*|I (Mmp37:g Mmp37 g X 0 3.6825 1.2700)
*|I (Mmp21:g Mmp21 g X 0 4.3625 1.0325)
*|S (CKb:2 1.8650 0.6850)
*|S (CKb:4 2.2450 0.8700)
*|S (CKb:6 3.6450 1.0150)
*|S (CKb:10 4.4700 1.2650)
*|S (CKb:11 3.6750 1.3950)
*|S (CKb:12 2.2750 1.2050)
*|S (CKb:13 1.8950 1.2475)
*|S (CKb:14 0.9650 1.2150)
C26 Mmp21:g VSS 3.68791e-17
C27 Mmp37:g VSS 2.94013e-17
C28 Mmp40:g VSS 3.35718e-17
C29 Mmp20:d VSS 4.2782e-17
C30 Mmn21:g VSS 3.29451e-17
C31 Mmn26:g VSS 6.54594e-17
C32 Mmn51:g VSS 4.62836e-17
C33 Mmn20:d VSS 1.07249e-16
C34 CKb:14 VSS 1.43373e-16
C35 CKb:13 VSS 1.54899e-16
C36 CKb:12 VSS 1.59456e-16
C37 CKb:11 VSS 1.9479e-16
C38 CKb:2 VSS 1.26849e-16
C39 CKb:4 VSS 9.4206e-17
C40 CKb:6 VSS 9.24063e-17
C41 CKb:10 VSS 1.18372e-16
Rl22 Mmn51:g CKb:2 98.078979 $W=0.039
Rl23 Mmn26:g CKb:6 143.831650 $W=0.039
Rl24 Mmp40:g CKb:4 75.002060 $W=0.039
Rl25 CKb:6 Mmp37:g 24.232828 $W=0.039
Rl26 Mmp21:g CKb:10 102.205368 $W=0.039
Rl27 Mmp21:g Mmn21:g 101.923080 $W=0.039
Rk28 CKb:11 CKb:10 0.670983 $W=0.09
Rk29 CKb:6 CKb:11 45.259895 $W=0.08
Rk30 CKb:12 CKb:4 0.244288 $W=0.09
Rk31 CKb:11 CKb:12 1.133230 $W=0.08
Rk32 CKb:13 CKb:2 0.417659 $W=0.08
Rk33 CKb:12 CKb:13 0.330032 $W=0.06
Rk34 CKb:13 CKb:14 0.912549 $W=0.08
Rk35 CKb:14 Mmn20:d 75.540527 $W=0.08
Rk36 CKb:14 Mmp20:d 62.173347 $W=0.09
*
*|NET n35 1.75003e-18
*|I (Mmn46:s Mmn46 s X 0 1.4175 0.4075)
*|I (Mmn45:d Mmn45 d X 0 1.4175 0.4075)
C42 Mmn46:s VSS 1.75003e-18
Rmw37 Mmn45:d Mmn46:s 0.001000 $W=1
*
*|NET n30 4.53181e-16
*|I (Mmn46:g Mmn46 g X 0 1.3525 0.4075)
*|I (Mmn51:d Mmn51 d X 0 2.1350 0.4925)
*|I (Mmp46:g Mmp46 g X 0 1.2525 1.3100)
*|I (Mmp51:d Mmp51 d X 0 2.1475 1.1400)
*|S (n30:2 1.3150 0.6100)
*|S (n30:5 2.0550 0.5250)
C43 Mmp51:d VSS 9.80567e-17
C44 Mmp46:g VSS 5.11796e-17
C45 Mmn51:d VSS 2.44898e-17
C46 Mmn46:g VSS 3.77104e-17
C47 n30:5 VSS 9.08657e-17
C48 n30:2 VSS 1.50879e-16
Rl38 Mmn46:g n30:2 24.232828 $W=0.039
Rl39 n30:2 Mmp46:g 219.646042 $W=0.039
Rk40 n30:5 n30:2 45.552441 $W=0.08
Rk41 Mmn51:d n30:5 75.064636 $W=0.09
Rk42 n30:5 Mmp51:d 62.438732 $W=0.08
*
*|NET n40 3.50006e-18
*|I (Mmn50:d Mmn50 d X 0 1.7950 0.4075)
*|I (Mmn51:s Mmn51 s X 0 1.7950 0.4075)
C49 Mmn50:d VSS 3.50006e-18
Rmw43 Mmn51:s Mmn50:d 0.001000 $W=1
*
*|NET mout 4.15675e-16
*|I (Mmn40:s Mmn40 s X 0 2.4400 0.4925)
*|I (Mmn36:g Mmn36 g X 0 3.1825 0.4925)
*|I (Mmp40:s Mmp40 s X 0 2.4250 1.1400)
*|I (Mmp36:g Mmp36 g X 0 3.1825 1.1400)
*|S (mout:2 3.2200 0.6950)
*|S (mout:4 2.4950 0.6950)
C50 Mmp36:g VSS 4.61242e-17
C51 Mmp40:s VSS 5.71849e-17
C52 Mmn36:g VSS 3.39944e-17
C53 Mmn40:s VSS 4.28086e-17
C54 mout:4 VSS 8.9278e-17
C55 mout:2 VSS 1.46285e-16
Rl44 mout:2 Mmn36:g 24.232828 $W=0.039
Rl45 Mmp36:g mout:2 97.309753 $W=0.039
Rk46 mout:2 mout:4 45.566574 $W=0.08
Rk47 mout:4 Mmn40:s 75.113602 $W=0.1
Rk48 mout:4 Mmp40:s 62.250263 $W=0.09
*
*|NET CKbb 9.73728e-16
*|I (Mmn40:g Mmn40 g X 0 2.2075 0.4925)
*|I (Mmn37:g Mmn37 g X 0 3.4025 0.4925)
*|I (Mmn21:d Mmn21 d X 0 4.4550 0.5875)
*|I (Mmp51:g Mmp51 g X 0 2.0125 1.1400)
*|I (Mmp26:g Mmp26 g X 0 4.0625 1.2700)
*|I (Mmp21:d Mmp21 d X 0 4.4550 1.0325)
*|S (CKbb:2 2.2450 0.6950)
*|S (CKbb:5 3.4400 0.6950)
*|S (CKbb:7 4.0250 1.0150)
*|S (CKbb:10 4.4650 1.0450)
*|S (CKbb:11 4.3050 1.0150)
*|S (CKbb:12 3.4100 0.5350)
C56 Mmp21:d VSS 2.80507e-17
C57 Mmp26:g VSS 6.13389e-17
C58 Mmp51:g VSS 6.94947e-17
C59 Mmn21:d VSS 1.23946e-17
C60 Mmn37:g VSS 3.88795e-17
C61 Mmn40:g VSS 2.65043e-17
C62 CKbb:12 VSS 2.72966e-16
C63 CKbb:11 VSS 1.20184e-16
C64 CKbb:2 VSS 1.94335e-16
C65 CKbb:5 VSS 7.3169e-17
C66 CKbb:7 VSS 7.6412e-17
Rl49 Mmn40:g CKbb:2 24.232828 $W=0.039
Rl50 Mmn37:g CKbb:5 69.232826 $W=0.039
Rl51 CKbb:2 Mmp51:g 147.196686 $W=0.039
Rl52 Mmp26:g CKbb:7 69.232826 $W=0.039
Rk53 CKbb:11 CKbb:7 0.218562 $W=0.08
Rk54 CKbb:10 CKbb:11 0.121072 $W=0.09
Rk55 CKbb:12 CKbb:5 0.121072 $W=0.09
Rk56 CKbb:12 CKbb:2 46.189724 $W=0.08
Rk57 CKbb:11 CKbb:12 1.231366 $W=0.08
Rk58 Mmn21:d CKbb:10 75.327827 $W=0.09
Rk59 Mmp21:d CKbb:10 62.000000 $W=0.09
*
*|NET n20 5.10694e-16
*|I (Mmn30:g Mmn30 g X 0 2.6725 0.4925)
*|I (Mmn37:d Mmn37 d X 0 3.5525 0.4925)
*|I (Mmp30:g Mmp30 g X 0 2.5675 1.1400)
*|I (Mmp37:d Mmp37 d X 0 3.8725 1.2700)
*|S (n20:2 2.7100 0.8850)
*|S (n20:5 3.6300 0.8550)
C67 Mmp37:d VSS 7.72476e-17
C68 Mmp30:g VSS 5.33397e-17
C69 Mmn37:d VSS 5.57202e-17
C70 Mmn30:g VSS 4.21675e-17
C71 n20:5 VSS 1.27996e-16
C72 n20:2 VSS 1.54223e-16
Rl60 Mmn30:g n20:2 97.309753 $W=0.039
Rl61 n20:2 Mmp30:g 78.400269 $W=0.039
Rk62 n20:5 n20:2 45.674797 $W=0.09
Rk63 n20:5 Mmn37:d 75.206688 $W=0.09
Rk64 Mmp37:d n20:5 62.385094 $W=0.08
*
*|NET n27 5.23137e-18
*|I (Mmn35:d Mmn35 d X 0 3.0800 0.4925)
*|I (Mmn36:s Mmn36 s X 0 3.0800 0.4925)
C73 Mmn35:d VSS 5.23137e-18
Rmw65 Mmn36:s Mmn35:d 0.001000 $W=1
*
*|NET n25 4.78744e-18
*|I (Mmn36:d Mmn36 d X 0 3.2925 0.4925)
*|I (Mmn37:s Mmn37 s X 0 3.2925 0.4925)
C74 Mmn36:d VSS 4.78744e-18
Rmw66 Mmn37:s Mmn36:d 0.001000 $W=1
*
*|NET n21 1.56139e-18
*|I (Mmn26:s Mmn26 s X 0 3.7750 0.4925)
*|I (Mmn25:d Mmn25 d X 0 3.7750 0.4925)
C75 Mmn26:s VSS 1.56139e-18
Rmw67 Mmn25:d Mmn26:s 0.001000 $W=1
*
*|NET n41 3.90696e-18
*|I (Mmp50:d Mmp50 d X 0 1.9250 1.1400)
*|I (Mmp51:s Mmp51 s X 0 1.9250 1.1400)
C76 Mmp50:d VSS 3.90696e-18
Rmw68 Mmp51:s Mmp50:d 0.001000 $W=1
*
*|NET n26 1.40256e-16
*|I (Mmp35:d Mmp35 d X 0 3.0175 1.1400)
*|I (Mmp37:s Mmp37 s X 0 3.5575 1.2700)
C77 Mmp37:s VSS 7.61497e-17
C78 Mmp35:d VSS 6.41065e-17
Rk69 Mmp37:s Mmp35:d 124.257385 $W=0.1
*
*|NET n22 1.67153e-18
*|I (Mmp26:s Mmp26 s X 0 4.1150 1.2700)
*|I (Mmp25:d Mmp25 d X 0 4.1150 1.2700)
C79 Mmp26:s VSS 1.67153e-18
Rmw70 Mmp25:d Mmp26:s 0.001000 $W=1
*
*Instance Section
*
Mmn20	Mmn20:d	Mmn20:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.04422P	AS=0.0463P	PD=0.9U	PS=1U
+ fw=1.45e-07 sa=6.3e-07 sb=3.05e-07 sca=10.9472 scb=0.0104991 scc=0.000356047
Mmn46	Mmn46:d	Mmn46:g	Mmn46:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.04202P	AS=0.01743P	PD=0.82U	PS=0.58U
+ fw=2.05e-07 sa=2.05e-07 sb=1.44024e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn45	Mmn45:d	Mmn45:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.01743P	AS=0.0328P	PD=0.58U	PS=0.73U
+ fw=2.05e-07 sa=3.35e-07 sb=1.38634e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn50	Mmn50:d	Mmn50:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03485P	AS=0.0328P	PD=0.75U	PS=0.73U
+ fw=2.05e-07 sa=5.4e-07 sb=1.30134e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn51	Mmn51:d	Mmn51:g	Mmn51:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0482P	AS=0.03485P	PD=1.1U	PS=0.75U
+ fw=2.05e-07 sa=7.55e-07 sb=1.2122e-06 sca=9.00745 scb=0.0073653 scc=0.000173562
Mmn40	Mmn51:d	Mmn40:g	Mmn40:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0482P	AS=0.0861P	PD=1.1U	PS=1.25U
+ fw=2.05e-07 sa=6.61951e-07 sb=1.81e-06 sca=13.0797 scb=0.0132969 scc=0.000723565
Mmn30	Mmn40:s	Mmn30:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0861P	AS=0.0623P	PD=1.25U	PS=1.08U
+ fw=2.05e-07 sa=1.12695e-06 sb=1.345e-06 sca=13.0797 scb=0.0132969 scc=0.000723565
Mmn35	Mmn35:d	Mmn35:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0328P	AS=0.0623P	PD=0.73U	PS=1.08U
+ fw=2.05e-07 sa=1.43195e-06 sb=1.04e-06 sca=13.0797 scb=0.0132969 scc=0.000723565
Mmn36	Mmn36:d	Mmn36:g	Mmn36:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.03588P	AS=0.0328P	PD=0.76U	PS=0.73U
+ fw=2.05e-07 sa=1.61646e-06 sb=8.35e-07 sca=13.0797 scb=0.0132969 scc=0.000723565
Mmn37	Mmn37:d	Mmn37:g	Mmn37:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05228P	AS=0.03588P	PD=0.92U	PS=0.76U
+ fw=2.05e-07 sa=1.70768e-06 sb=6.15e-07 sca=13.0797 scb=0.0132969 scc=0.000723565
Mmn26	Mmn37:d	Mmn26:g	Mmn26:s	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.05228P	AS=0.0205P	PD=0.92U	PS=0.61U
+ fw=2.05e-07 sa=1.83207e-06 sb=3.15e-07 sca=13.0797 scb=0.0132969 scc=0.000723565
Mmn25	Mmn25:d	Mmn25:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.205U
+ AD=0.0205P	AS=0.06185P	PD=0.61U	PS=1.2U
+ fw=2.05e-07 sa=1.8922e-06 sb=1.7e-07 sca=13.0797 scb=0.0132969 scc=0.000723565
Mmn21	Mmn21:d	Mmn21:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.145U
+ AD=0.0203P	AS=0.07685P	PD=0.57U	PS=1.5U
+ fw=1.45e-07 sa=1.7e-07 sb=1.4e-07 sca=23.279 scb=0.0230742 scc=0.00267719
Mmn55@1	Mmn55@1:d	Mmn55@1:g	VSS	VSS	g45n1hvt
+ L=0.045U	W=0.26U
+ AD=0.0416P	AS=0.04135P	PD=0.84U	PS=0.9U	M=2
+ fw=2.6e-07 sa=1.4e-07 sb=5.78269e-07 sca=16.3874 scb=0.0162972 scc=0.00139495
Mmp20	Mmp20:d	Mmp20:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.05297P	PD=0.71U	PS=1.11U
+ fw=2.15e-07 sa=5.55e-07 sb=1.4e-07 sca=13.3166 scb=0.0115053 scc=0.000332937
Mmp46	Mmp46:d	Mmp46:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0651P	AS=0.07905P	PD=1.04U	PS=1.13U
+ fw=3.1e-07 sa=2.55e-07 sb=1.17194e-06 sca=10.6008 scb=0.00822388 scc=0.000121216
Mmp45	Mmp46:d	Mmp45:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0651P	AS=0.09685P	PD=1.04U	PS=1.53U
+ fw=3.1e-07 sa=5.1e-07 sb=9.62097e-07 sca=10.6008 scb=0.00822388 scc=0.000121216
Mmp50	Mmp50:d	Mmp50:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0403P	AS=0.09685P	PD=0.88U	PS=1.53U
+ fw=3.1e-07 sa=4.34194e-07 sb=1.515e-06 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp51	Mmp51:d	Mmp51:g	Mmp51:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06975P	AS=0.0403P	PD=1.07U	PS=0.88U
+ fw=3.1e-07 sa=6.09194e-07 sb=1.34e-06 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp40	Mmp51:d	Mmp40:g	Mmp40:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.06975P	AS=0.0744P	PD=1.07U	PS=1.1U
+ fw=3.1e-07 sa=8.79194e-07 sb=1.07e-06 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp30	Mmp40:s	Mmp30:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0744P	AS=0.09P	PD=1.1U	PS=1.36U
+ fw=3.1e-07 sa=1.16419e-06 sb=7.85e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp35	Mmp35:d	Mmp35:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.08835P	AS=0.09P	PD=1.19U	PS=1.36U
+ fw=3.1e-07 sa=1.44919e-06 sb=5e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp36	Mmp35:d	Mmp36:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.08835P	AS=0.0929P	PD=1.19U	PS=1.63U
+ fw=3.1e-07 sa=1.69565e-06 sb=1.7e-07 sca=16.8851 scb=0.0157945 scc=0.0012748
Mmp37	Mmp37:d	Mmp37:g	Mmp37:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.10385P	AS=0.06355P	PD=1.29U	PS=1.03U
+ fw=3.1e-07 sa=2.05e-07 sb=6.03952e-07 sca=11.0604 scb=0.00885796 scc=0.000174054
Mmp26	Mmp37:d	Mmp26:g	Mmp26:s	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.10385P	AS=0.0186P	PD=1.29U	PS=0.74U
+ fw=3.1e-07 sa=5.85e-07 sb=2.23952e-07 sca=12.8183 scb=0.0103291 scc=0.000178019
Mmp25	Mmp25:d	Mmp25:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.31U
+ AD=0.0186P	AS=0.0699P	PD=0.74U	PS=1.85U
+ fw=3.1e-07 sa=6.9e-07 sb=1.18952e-07 sca=14.1447 scb=0.0123968 scc=0.000200733
Mmp21	Mmp21:d	Mmp21:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.215U
+ AD=0.0301P	AS=0.0699P	PD=0.71U	PS=1.85U
+ fw=2.15e-07 sa=1.91279e-07 sb=1.4e-07 sca=43.6839 scb=0.0409846 scc=0.00506402
Mmp55@1	Mmp55@1:d	Mmn55@1:g	VDD	VDD	g45p1hvt
+ L=0.045U	W=0.39U
+ AD=0.0624P	AS=0.05379P	PD=1.1U	PS=1.085U	M=2
+ fw=3.9e-07 sa=1.4e-07 sb=4.42821e-07 sca=38.817 scb=0.037485 scc=0.00407535
.ENDS
.END
